US05210080
To a solution of 7β-amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate trihydrochloride (2 g) and N-(trimethylsilyl)acetamide (5.85 g) in tetrahydrofuran (40 ml) was added (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoactyl chloride hydrochloride (1.26 g) under ice-cooling. After being stirred for 1 hour at the same temperature, the reaction mixture was poured into diisopropyl ether (200 ml). The resulting precipitate was collected by filtration, dissolved in water (100 ml) and adjusted to pH 2.0 with 5% sodium bicarbonate solution. This solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" (Trademark : prepared by Mitsubishi Chemical Industries). The desired compound was eluted with 10% isopropyl alcohol and lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (syn isomer) (1.07 g).

reactant | 7β-amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate trihydrochloride | 2 g | Cl.Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O
reactant | N-(trimethylsilyl)acetamide | 5.85 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoactyl chloride hydrochloride | 1.26 g | Cl.NC1=NC(=NS1)/C(/C(=O)Cl)=N/OCC=C
reactant | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 1.07 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOCC=C | C20H23N9O6S2
